US06403595B1
1-[4-[N-(1-acetoxyethoxycarbonyl)amidino]benzyl]-4-(7-chloro-2H-benzopyran-3-sulfonyl)-2-piperazinone
A solution of 1-(4-amidinobenzyl)-4-(7-chloro-2H-benzopyran-3-sulfonyl)-2-piperazinone hydrochloride (99 mg), O-(1-acetoxyethoxycarbonyl)-4-nitrophenol (54 mg), diisopropylethylamine (39 mg) in DMF (5 ml) was stirred at 80° C. for 1 hour. The reaction solution was concentrated under reduced pressure, and to the residue was added ethyl acetate. The mixture was washed with sodium bicarbonate solution and saturated brine, dried (MgSO4) and concentrated. Precipitated crystals were washed with ether to give colorless crystals of the title compound (49 mg).

reactant | 1-(4-amidinobenzyl)-4-(7-chloro-2H-benzopyran-3-sulfonyl)-2-piperazinone hydrochloride | 99 mg | Cl.C(N)(=N)C1=CC=C(CN2C(CN(CC2)S(=O)(=O)C=2COC3=C(C2)C=CC(=C3)Cl)=O)C=C1
reactant | O-(1-acetoxyethoxycarbonyl)-4-nitrophenol | 54 mg | C(C)(=O)OC(C)OC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C11H11NO7
reactant | diisopropylethylamine | 39 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-[4-[N-(1-acetoxyethoxycarbonyl)amidino]benzyl]-4-(7-chloro-2H-benzopyran-3-sulfonyl)-2-piperazinone | 49 mg | C(C)(=O)OC(C)OC(=O)NC(=N)C1=CC=C(CN2C(CN(CC2)S(=O)(=O)C=2COC3=C(C2)C=CC(=C3)Cl)=O)C=C1 | C26H27ClN4O8S
